US07442708B2
4-Chloro-N-[3-(4-amino-3-methoxybenzoyl)-2-methylindolizin-1-yl]benzamide
A mixture of 384 mg (0.83 mmol) of 4-chloro-N-[3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]benzamide and 115 mg of platinum oxide in 9 ml of dimethylformamide is stirred, under 5 bar of hydrogen, at room temperature for 24 hours, and then filtered on talc. The filtrate is concentrated under reduced pressure.

reactant | 4-chloro-N-[3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]benzamide | 0.83 mmol, 384 mg | ClC1=CC=C(C(=O)NC=2C(=C(N3C=CC=CC23)C(C2=CC(=C(C=C2)[N+](=O)[O-])OC)=O)C)C=C1 | C24H18ClN3O5
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
catalyst | platinum oxide | 115 mg | [Pt]=O
product | 4-Chloro-N-[3-(4-amino-3-methoxybenzoyl)-2-methylindolizin-1-yl]benzamide | ClC1=CC=C(C(=O)NC=2C(=C(N3C=CC=CC23)C(C2=CC(=C(C=C2)N)OC)=O)C)C=C1 | C24H20ClN3O3
